US06239131B1
Preparation of 3-[3-[1-(2-thenoylmethyl)-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Thenoylmethyl)-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(4-ethoxycarbonylphenyl)urea (0.70 g) was dissolved in tetrahydrofuran (19 ml), aqueous lithium hydroxide monohydrate (0.26 g) solution (15 ml) and methanol (7 ml) were added, the mixture was stirred at 40-50° C. for one hours. The reaction mixture was concentrated under reduced pressure, 1N hydrochloric acid and chloroform were added to the residue, and extracted. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, a mixed solvent of methylene chloride and ether (1:1) was added to powder so precipitated, and collected by filtration,to thereby obtain 0.61 g of the title compound (Yield: 92.4%).

reactant | 1-[1-(2-Thenoylmethyl)-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(4-ethoxycarbonylphenyl)urea | 0.70 g | C1(=CC=CS1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)NC2=CC=C(C=C2)C(=O)OCC)=O | C31H34N4O5S
reactant | lithium hydroxide monohydrate | 0.26 g | O.[OH-].[Li+]
reactant | methanol | 7 ml | CO | CH4O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | 3-[3-[1-(2-thenoylmethyl)-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 0.61 g, Yield: 92.4% | C1(=CC=CS1)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O | C29H30N4O5S
